US06117881
1-(4-Methylphenyl)-2,3,4,9-tetrahydro-1H-β-carboline
This product was prepared using the same procedure as for intermediate 1 with tryptamine (1.0 g, 6.2 mmol), 4-methylbenzaldehyde (0.74 g, 1 equiv.) and TFA (1 mL, 2 equiv.) to give the title compound (1.6 g, 100%) as a white powder.

reactant | tryptamine | 6.2 mmol, 1.0 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | 4-methylbenzaldehyde | 0.74 g, 1 equiv. | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | TFA | 1 mL, 2 equiv. | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(4-Methylphenyl)-2,3,4,9-tetrahydro-1H-β-carboline | 1.6 g, 100% | CC1=CC=C(C=C1)C1NCCC=2C3=CC=CC=C3NC12 | C18H18N2
